US05399721
Selenium dioxide (35.5 g; 320 mmol) was dissolved in 250 mL of MeOH (warm to reflux with stirring), and 19.6 g (315 mmol) of α-bromo-4-chloroacetophenone was added. The reaction mixture was warmed to reflux for 24 hours, cooled, filtered and concentrated leaving an orange oil. The oil was diluted with 1500 mL of Et2O and washed three times with 200 mL of H2O and once with 200 mL of brine, dried (Na2SO4) and concentrated. The crude oil was crystallized from Et2O and hexanes at -20° C. The white needles were filtered while cold and washed with small portions of cold hexanes to yield 22 g (35%) of methyl p-chlorophenyl-α-oxoacetate, m.p. 56°-57° C., 1H-NMR (CDCl3)δ8.0-7.9 (m, 2H), 7.5-7.4 (m, 2H), 3.9 (s, 3H); 13C-NMR (CDCl3)δ184.4, 163.5, 141.6, 131.4, 131.0, 129.3, 52.7.

reactant | Selenium dioxide | 320 mmol, 35.5 g | [Se](=O)=O | O2Se
reactant | α-bromo-4-chloroacetophenone | 315 mmol, 19.6 g | C1=CC(=CC=C1C(=O)CBr)Cl | C8H6BrClO
reactant | Et2O | 1500 mL | CCOCC | C4H10O
solvent | MeOH | 250 mL | CO | CH4O
product | methyl p-chlorophenyl-α-oxoacetate | 22 g, 35% | ClC1=CC=C(C=C1)C(C(=O)OC)=O | C9H7ClO3
